US06528068B1
Synthesis of N-lauroylsarcosine propyl ester
Sixty-one(61) grams of N-lauroylsarcosine (ex. Kawaken Fine Chemicals Co., Ltd.) and 200 ml of 1-propanol were charged into a 500-milliliter flask. Further, 1.45 g of conc. sulfuric acid were added as the catalyst. The mixture was heated under reflux for reaction for 7 hours.

reactant | N-lauroylsarcosine | C(CCCCCCCCCCC)(=O)N(C)CC(=O)O | C15H29NO3
reactant | sulfuric acid | 1.45 g | S(O)(O)(=O)=O | H2O4S
reactant | 1-propanol | 200 ml | C(CC)O | C3H8O
product | N-lauroylsarcosine propyl ester | C(CC)OC(CN(C)C(CCCCCCCCCCC)=O)=O | C18H35NO3
